US05077035
N-(Trifluoroacetyl)-1-amino-5,8-dihydronaphthalene oxide (1.9 g, 7.4 mmol) was dissolved in 25 ml of absolute ethanol to which was added 4-phenylpiperidine (3.0 g, 19 mmol). The solution was maintained at 45° C. for 17 hours and then refluxed for 3 hours. After cooling to 23° C. for 7 hours, a crystalline solid was collected by filtration and washed with ethanol and carbon tetrachloride. A polar isomer, (±)-trans-8-amino-3-hydroxy-2-(4-phenylpiperidino)tetralin, results from deacylation during the reaction (0.78 g, 33% yield). The mother liquor was evaporated to an oil which was dissolved in carbon tetrachloride. This process was repeated in order to remove most of the ethanol. When the oil was again dissolved in carbon tetrachloride, crystallization commenced and yielded 0.7 g of 4-phenyl-piperidinium trifluoroacetate.

reactant | N-(Trifluoroacetyl)-1-amino-5,8-dihydronaphthalene oxide | 7.4 mmol, 1.9 g | FC(C(=O)NC12C(C=CC=3CC=CCC13)O2)(F)F | C12H10F3NO2
reactant | 4-phenylpiperidine | 19 mmol, 3.0 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | (±)-trans-8-amino-3-hydroxy-2-(4-phenylpiperidino)tetralin | 33% yield | NC=1C=CC=C2C[C@H]([C@@H](CC12)N1CCC(CC1)C1=CC=CC=C1)O | C21H26N2O
